US06939883B2
Step 2A 1-(2,6-Difluorobenzyl)-2,6-dimethyl-3-(2-fluoro-3-methoxyphenyl)-5-ethoxycarbonyl-4-pyridone:
1-(2,6-Difluorobenzyl)-2,6-dimethyl-3-bromo-5-ethoxycarbonyl-4-pyridone (1.5 g, 3.7 mmol) was evacuated in a pressure vessel with 2-fluoro-3-methoxyphenyl boronic acid (764 mg, 4.5 mmol) and tetrakis(triphenylphosphine) palladium (0) (428 mg, 370 μmol). A mixture of benzene/ethanol/1,2-dimethoxyethane (74 ml in a 10/1/11 ratio) and barium hydroxide (saturated aqueous, about 0.5M) was then added under vacuum, the vessel sealed under N2, and the reaction stirred at 90° C. for twelve hours, protected from light. The organic layer was concentrated and purified using flash silica chromatography (EtOAc/hexanes-1/4 to MeOH/CH2Cl2-2/98), with the product eluting as the third spot. The product was dried as an amber oil (1.12 g, 2.5 mmol, 68%). 1H NMR (CDCl3, 300 MHz) δ 6.80-7.80 (m, 6H), 5.29 (s, 2H), 4.37-4.33 (m, 2H), 3.87 (s, 3H), 3.38 (s, 3H), 2.26 (s, 3H), 1.35 (t, 3H); LCMS=446 (MH+).

reactant | 1-(2,6-Difluorobenzyl)-2,6-dimethyl-3-bromo-5-ethoxycarbonyl-4-pyridone | 3.7 mmol, 1.5 g | FC1=C(CN2C(=C(C(C(=C2C)C(=O)OCC)=O)Br)C)C(=CC=C1)F | C17H16BrF2NO3
reactant | 2-fluoro-3-methoxyphenyl boronic acid | 4.5 mmol, 764 mg | FC1=C(C=CC=C1OC)B(O)O | C7H8BFO3
reactant | barium hydroxide | about 0.5M | [OH-].[Ba+2].[OH-]
catalyst | tetrakis(triphenylphosphine) palladium (0) | 370 μmol, 428 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
solvent | benzene ethanol 1,2-dimethoxyethane | C1=CC=CC=C1.C(C)O.COCCOC
product | 1-(2,6-Difluorobenzyl)-2,6-dimethyl-3-(2-fluoro-3-methoxyphenyl)-5-ethoxycarbonyl-4-pyridone | FC1=C(CN2C(=C(C(C(=C2C)C(=O)OCC)=O)C2=C(C(=CC=C2)OC)F)C)C(=CC=C1)F | C24H22F3NO4
